US07304081B2
(1R)-1′-({1-[4-(1H-benzimidazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
To a solution of 1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (30 mg, 0.00007 mol), 1H-Imidazole, 2-methyl-(7.15 mg, 0.0000871 mol) in N,N-dimethylformamide (1 mL, 0.01 mol) were added (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine (2.1 mg, 0.000014 mol), copper(I) iodide (1 mg, 0.000007 mol), and cesium carbonate (49.7 mg, 0.000152 mol). The mixture was microwaved at 200 Celsius for 60 minutes. Then the mixture was cooled down to r.t. and filtered. The filtrate was adjusted to be acidic using TFA and stirred for 30 minutes, then diluted with methanol and purified by revised phase prep-HPLC followed by chiral HPLC to afford the desired compound. MS (ESI): 451.1 (M+H+).

reactant | 1′-{[1-(4-bromophenyl)cyclopropyl]carbonyl}-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.00007 mol, 30 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC1)OC(C=1C=NC=CC12)=O | C20H17BrN2O3
reactant | 1H-Imidazole | N1C=NC=C1 | C3H4N2
reactant | N,N-dimethylformamide | 0.01 mol, 1 mL | CN(C=O)C | C3H7NO
reactant | (1S,2S)-N,N′-dimethylcyclohexane-1,2-diamine | 0.000014 mol, 2.1 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | cesium carbonate | 0.000152 mol, 49.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(I) iodide | 0.000007 mol, 1 mg | [Cu]I
product | (1R)-1′-({1-[4-(1H-benzimidazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | N1(C=NC2=C1C=CC=C2)C2=CC=C(C=C2)C2(CC2)C(=O)N2C[C@]1(CC2)OC(C=2C=NC=CC21)=O | C27H22N4O3
